US04017627
Preparation of 5-acetyl-7-nitro-8-methoxycarbonyloxyquinoline.
10.5 g of triethylamine are added to a solution of 23 g of 5-acetyl-7-nitro-8-hydroxyquinoline in 150 ml of tetrahydrofurane and 9.5 g of chloroformic acid methyl ester are slowly added dropwise to this mixture.

reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 5-acetyl-7-nitro-8-hydroxyquinoline | 23 g | C(C)(=O)C1=C2C=CC=NC2=C(C(=C1)[N+](=O)[O-])O | C11H8N2O4
reactant | chloroformic acid methyl ester | 9.5 g | COC(=O)Cl | C2H3ClO2
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
product | 5-acetyl-7-nitro-8-methoxycarbonyloxyquinoline | C(C)(=O)C1=C2C=CC=NC2=C(C(=C1)[N+](=O)[O-])OC(=O)OC | C13H10N2O6
